US09303033B2
To 5-amino-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde (50 mg, 0.23 mmol) in 1.0 mL tetrahydrofuran was added methyl chloroformate (35 ul, 0.46 mmol) and DIEA (39 ul). The reaction mixture was heated at 60° C. for one hour. The reaction was partitioned between ethyl acetate/water. The organic layer was collected, dried over sodium sulfate, and concentrated under high vacuum to yield methyl 7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylcarbamate. The crude product was taken to next step without further purification. LCMS (M+1=276)

reactant | 5-amino-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 0.23 mmol, 50 mg | NC1=NC=2N(C(=C1)NC1CC1)N=CC2C=O | C10H11N5O
reactant | methyl chloroformate | 0.46 mmol, 35 ul | ClC(=O)OC | C2H3ClO2
reactant | DIEA | 39 ul | CCN(C(C)C)C(C)C | C8H19N
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | methyl 7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylcarbamate | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)NC(OC)=O | C12H13N5O3
